US09399636B2
Step 4: tert-butyl 4-(2-((2-hydroxyethyl)(methyl)amino)-6-(4-methylpyridin-2-ylamino)pyridin-4-yl)piperidine-1-carboxylate
tert-butyl 4-(2-((2-hydroxyethyl)(methyl)amino)-6-(4-methylpyridin-2-ylamino)pyridin-4-yl)-5,6-dihydropyridine-1(2H)-carboxylate (130 mg, 0.29 mmol) was dissolved in MeOH (50 mL). The resulting solution was hydrogenated in H-Cube hydrogenation reactor, with 10% Pd/C cartridge under 40 bar, eluded 1 mL/min at 30° C. for two times. The resulting mixture was again hydrogenated under 50 bar, 1 mL/min at 30° C. for three times. The solution was concentrated in vacuo to give 100 mg (76%) of the title compound as a clear yellow gum. It was carried on as is. 1H NMR (400 MHz, CDCl3) δ 8.09 (d, J=5.2 Hz, 1H), 7.35 (s, 1H), 6.96 (s, 1H), 6.65 (d, J=5.2 Hz, 1H), 6.61 (s, 1H), 5.92 (s, 1H), 4.30 (d, J=53.7 Hz, 2H), 3.87 (t, J=5.0 Hz, 2H), 3.75 (t, J=5.0 Hz, 2H), 3.07 (s, 3H), 2.78 (t, J=12.6 Hz, 2H), 2.59-2.51 (m, 1H), 2.31 (s, 3H), 1.82 (d, J=12.7 Hz, 2H), 1.70-1.56 (m, 2H), 1.49 (s, 9H). LC-MS: m/z=442 (M+H+).

reactant | tert-butyl 4-(2-((2-hydroxyethyl)(methyl)amino)-6-(4-methylpyridin-2-ylamino)pyridin-4-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 0.29 mmol, 130 mg | OCCN(C1=NC(=CC(=C1)C1=CCN(CC1)C(=O)OC(C)(C)C)NC1=NC=CC(=C1)C)C | C24H33N5O3
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | tert-butyl 4-(2-((2-hydroxyethyl)(methyl)amino)-6-(4-methylpyridin-2-ylamino)pyridin-4-yl)piperidine-1-carboxylate | 100 mg, 76% | OCCN(C1=NC(=CC(=C1)C1CCN(CC1)C(=O)OC(C)(C)C)NC1=NC=CC(=C1)C)C | C24H35N5O3
